US07585878B2
To 10 ml of chloroform were added 250 mg of N-1,3-benzothiazol-5-yl-2-(chloromethyl)biphenyl-4-carboxamide and 169 mg of piperidine-4-carboxamide, followed by 3 days of stirring at room temperature. The reaction solvent was removed by evaporation under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform:methanol) to obtain a yellow foamy substance. Thereto were added 2 ml of ethanol and 1 ml of a 4M ethyl acetate solution of hydrochloric acid, followed by removal of the solvent under reduced pressure. The residue was crystallized (ethanol:water:ethyl acetate) to obtain 205 mg of 1-({4-[(1,3-benzothiazol-5-ylamino)carbonyl]biphenyl-2-yl}methyl)piperidine-4-carboxamide hydrochloride.

reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | N-1,3-benzothiazol-5-yl-2-(chloromethyl)biphenyl-4-carboxamide | 250 mg | S1C=NC2=C1C=CC(=C2)NC(=O)C2=CC(=C(C=C2)C2=CC=CC=C2)CCl | C21H15ClN2OS
reactant | piperidine-4-carboxamide | 169 mg | N1CCC(CC1)C(=O)N | C6H12N2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 4M | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-({4-[(1,3-benzothiazol-5-ylamino)carbonyl]biphenyl-2-yl}methyl)piperidine-4-carboxamide hydrochloride | 205 mg | Cl.S1C=NC2=C1C=CC(=C2)NC(=O)C2=CC(=C(C=C2)C2=CC=CC=C2)CN2CCC(CC2)C(=O)N | InChI=1S/C27H26N4O2S.ClH/c28-26(32)19-10-12-31(13-11-19)16-21-14-20(6-8-23(21)18-4-2-1-3-5-18)27(33)30-22-7-9-25-24(15-22)29-17-34-25;/h1-9,14-15,17,19H,10-13,16H2,(H2,28,32)(H,30,33);1H
